US07012075B2
To N-(4-bromo-5-methylisoxazol-3-yl)leucine (841 mg, 2.90 mmol), aminoacetonitrile hydrochloride (674 mg, 7.30 mmol), PyBOP (1.73 g, 3.33 mmol) in dry degassed DMF (60 mL) was added triethylamine (1.4 mL, 10.0 mmol) dropwise. The reaction mixture was stirred for 15 hours at room temperature. Aqueous sat. NaHCO3 was added and the product was extracted with diethyl ether (2×) and ethyl acetate (2×). The combined organic extracts were washed with brine, dried over sodium sulphate, and concentrated in vacuo. The crude product was purified by flash chromatography (60% ethyl acetate/hexane) to yield N2-(4-bromo-5-methylisoxazol-3-yl)-N1-(cyanomethyl)leucinamide.

reactant | N-(4-bromo-5-methylisoxazol-3-yl)leucine | 2.90 mmol, 841 mg | BrC=1C(=NOC1C)N[C@@H](CC(C)C)C(=O)O | C10H15BrN2O3
reactant | aminoacetonitrile hydrochloride | 7.30 mmol, 674 mg | Cl.NCC#N
reactant | PyBOP | 3.33 mmol, 1.73 g | C1CCN(C1)[P+](N2CCCC2)(N3CCCC3)ON4C5=C(C=CC=C5)N=N4.F[P-](F)(F)(F)(F)F
reactant | triethylamine | 10.0 mmol, 1.4 mL | C(C)N(CC)CC | C6H15N
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
product | N2-(4-bromo-5-methylisoxazol-3-yl)-N1-(cyanomethyl)leucinamide | BrC=1C(=NOC1C)N[C@@H](CC(C)C)C(=O)NCC#N | C12H17BrN4O2
